US04735940
(ca) 22.9 g of 3-hydroxy-2-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide (internal salt) and 13.6 ml of methyl propiolate were heated together under argon in 1000 ml of toluene until the starting material was completely taken up. The solvent was removed in vacuo and the residue was stirred in 500 ml of ether/methanol (9:1) for 1 hour. The yellow crystals obtained were removed by filtration under suction. There was obtained methyl 7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate of m.p. 153°-154° (dec.). An additional portion of product of m.p. 151°-152° (dec.) can be obtained by chromatography of the filtrate on silica gel.

reactant | 3-hydroxy-2-phenylthiazolo[3,2-a]thieno[2,3-c]pyridinium hydroxide | 22.9 g | [OH-].OC1=C(SC2=[N+]1C=CC1=C2SC=C1)C1=CC=CC=C1
reactant | methyl propiolate | 13.6 ml | C(C#C)(=O)OC | C4H4O2
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate | O=C1N2C=CC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)OC)SC=C3 | C19H13NO3S
